US05891871
Methyl 3,4-methylenedioxyphenylacetate
To a solution of 3,4-methylenedioxyphenylacetic acid (4.2 g, 23 mmol) in methanol (50 mL) was added concentrated sulfuric acid (1.5 mL). The mixture was refluxed for 48 h, cooled to room temperature, and neutralized with saturated NaHCO3. The methanol was removed in vacuo. The residue was extracted with 1:1 hexane/EtOAc (2×100 mL). The combined organic phase was washed with water, saturated NaHCO3, and brine, and dried over Na2SO4. The solvent was removed in vacuo to yield the title compound as an oil (3.9 g, 86%). 1H NMR (CDCl3) 6.78-6.72 (m, 3H), 5.95 (s, 2H), 3.69 (s, 3H), 3.54 (s, 2H).

reactant | 3,4-methylenedioxyphenylacetic acid | 23 mmol, 4.2 g | C1OC=2C=C(C=CC2O1)CC(=O)O | C9H8O4
reactant | sulfuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | Methyl 3,4-methylenedioxyphenylacetate | 3.9 g, 86% | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
